US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]octane-1,8-diamine
The title compound was prepared in analogy to Example 12-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and octane-1,8-diamine. MS obsd. (ESI+) [(M+H)+] 481, 1H NMR (400 MHz, CD3OD) δ ppm 8.10-8.08 (dd, J=1.2 Hz, 1 H), 7.92 (s, 1 H), 7.86-7.84 (d, J=7.6 Hz, 1 H), 7.71-7.67 (m, 2 H), 7.61-7.55 (m, 2 H), 5.92 (s, 1 H), 5.28 (s, 2 H), 4.52 (s, 2 H), 3.75-3.73 (m, 2 H), 3.50-3.46 (t, 2 H), 2.93-2.83 (t, 2 H), 2.46 (s, 3 H), 1.74-1.64 (m, 4 H), 1.51-1.40 (m, 8 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | octane-1,8-diamine | C(CCCCCCCN)N | C8H20N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]octane-1,8-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCCCCCCN)C)=O | C27H36N4O2S
